US07531553B2
To a solution of 5-nitro-2-chlorophenol (1.0 g, 5.8 mmol) and 2-methyloxychloroethane (2.6 mL, 28.8 mmol) in DMF (20 mL) was added K2CO3 (2.4 g, 17.4 mmol). The suspension was stirred at 80° C. for 18 h. After cooling, the mixture was filtered, the salts washed with EtOAc and the solvents removed under vacuum. The residue was dissolved in EtOAc and washed twice with NaOH (1 N) and once with H2O. The EtOAc layer was dried over MgSO4 and concentrated under vacuum. The crude was purified on silica gel using a Hexanes/EtOAc gradient (100/0 to 50/50) to give 1-chloro-2-(2-methoxy-ethoxy)-4-nitro-benzene.

reactant | 5-nitro-2-chlorophenol | 5.8 mmol, 1.0 g | [N+](=O)([O-])C=1C=CC(=C(C1)O)Cl | C6H4ClNO3
reactant | 2-methyloxychloroethane | 28.8 mmol, 2.6 mL | COCCCl | C3H7ClO
reactant | K2CO3 | 17.4 mmol, 2.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-chloro-2-(2-methoxy-ethoxy)-4-nitro-benzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])OCCOC | C9H10ClNO4
